.title kicad schematic

.ic v(bl_net)=0.6 v(blb_net)=0.6 v(net-_n10-pad2_)=0.6 v(net-_n10-pad3_)=0.6 v(net-_cs2-pad1_)=0

.include NMOS-180nm.lib
.include PMOS-180nm.lib
c4 /blb gnd 100f
c1 net-_c1-pad1_ gnd 10f
mn3 net-_n10-pad3_ net-_n3-pad2_ /blb gnd CMOSN W=1.0u L=0.18u M=1
mn2 net-_cs1-pad1_ gnd /blb gnd CMOSN W=0.24u L=0.18u M=1
mp8 net-_n17-pad1_ net-_enable1-pad1_ net-_p8-pad3_ net-_p8-pad3_ CMOSP W=0.44u L=0.18u M=1
vdd3 net-_p8-pad3_ gnd  dc 1.2
mn15 net-_c1-pad1_ net-_n13-pad1_ net-_n15-pad3_ gnd CMOSN W=0.3u L=0.18u M=1
mn16 net-_n15-pad3_ net-_enable1-pad1_ gnd gnd CMOSN W=0.22u L=0.18u M=1
* u1 net-_c1-pad1_ plot_v1
cs1 net-_cs1-pad1_ gnd 30f
c2 gnd net-_c2-pad2_ 10f
* u2 net-_c2-pad2_ plot_v1
mp7 net-_c1-pad1_ net-_n13-pad1_ net-_p6-pad1_ net-_p6-pad3_ CMOSP W=0.6u L=0.18u M=1
mn17 net-_n17-pad1_ net-_enable1-pad1_ gnd gnd CMOSN W=0.22u L=0.18u M=1
mp6 net-_p6-pad1_ net-_n17-pad1_ net-_p6-pad3_ net-_p6-pad3_ CMOSP W=0.44u L=0.18u M=1
vdd2 net-_p6-pad3_ gnd  dc 1.2
mn6 net-_n10-pad3_ net-_csel1-pad1_ net-_c1-pad1_ gnd CMOSN W=0.24u L=0.18u M=1
venable1 net-_enable1-pad1_ gnd pulse(0 1.2 22n 0.5n 0.5n 15n 100n)
vdd4 net-_n7-pad1_ gnd  dc 0.6
mn5 net-_c2-pad2_ net-_csel1-pad1_ net-_n10-pad2_ gnd CMOSN W=0.24u L=0.18u M=1
c3 /bl gnd 100f
cs2 net-_cs2-pad1_ gnd 30f
vwl1 net-_n1-pad2_ gnd pulse(0 1.2 8n 0.5n 0.5n 29n 100n)
mn1 net-_cs2-pad1_ net-_n1-pad2_ /bl gnd CMOSN W=0.24u L=0.18u M=1
vdd1 net-_n3-pad2_ gnd  dc 1.2
mn4 net-_n10-pad2_ net-_n3-pad2_ /bl gnd CMOSN W=1.0u L=0.18u M=1
vdd9 net-_p2-pad4_ gnd  dc 1.2
mn19 net-_n18-pad3_ net-_enable1-pad1_ gnd gnd CMOSN W=0.22u L=0.18u M=1
mn13 net-_n13-pad1_ net-_db1-pad1_ gnd gnd CMOSN W=0.22u L=0.18u M=1
mn18 net-_c2-pad2_ net-_n14-pad1_ net-_n18-pad3_ gnd CMOSN W=0.3u L=0.18u M=1
mn7 net-_n7-pad1_ net-_n7-pad2_ net-_n10-pad2_ gnd CMOSN W=0.8u L=0.18u M=1
mn9 net-_n10-pad2_ net-_n7-pad2_ net-_n10-pad3_ gnd CMOSN W=0.5u L=0.18u M=1
mn8 net-_n10-pad3_ net-_n7-pad2_ net-_n7-pad1_ gnd CMOSN W=0.8u L=0.18u M=1
mn12 net-_n10-pad1_ net-_n12-pad2_ gnd gnd CMOSN W=6u L=0.18u M=1
vsan1 net-_n12-pad2_ gnd pulse(0 1.2 12n 0.5n 0.5n 25n 100n)
mn10 net-_n10-pad1_ net-_n10-pad2_ net-_n10-pad3_ gnd CMOSN W=2.0u L=0.18u M=1
vcsel1 net-_csel1-pad1_ gnd pulse(0 1.2 22n 500p 500p 15n 100n)
mp5 net-_n14-pad1_ net-_d1-pad1_ net-_p5-pad3_ net-_p5-pad3_ CMOSP W=0.44u L=0.18u M=1
vdd8 net-_p5-pad3_ gnd  dc 1.2
vd1 net-_d1-pad1_ gnd  dc 1.2
mp3 net-_n10-pad3_ net-_n10-pad2_ net-_p1-pad3_ net-_p3-pad4_ CMOSP W=3.0u L=0.18u M=1
mp2 net-_p1-pad3_ net-_n10-pad3_ net-_n10-pad2_ net-_p2-pad4_ CMOSP W=3.0u L=0.18u M=1
mp1 net-_p1-pad1_ net-_p1-pad2_ net-_p1-pad3_ net-_p1-pad1_ CMOSP W=9.0u L=0.18u M=1
vsap1 net-_p1-pad2_ gnd pulse(1.2 0 12n 0.5n 0.5n 25n 100n)
vdd6 net-_p1-pad1_ gnd  dc 1.2
vdd10 net-_p3-pad4_ gnd  dc 1.2
vpre1 net-_n7-pad2_ gnd pulse(1.2 0 0n 500p 500p 7.5n 100n)
mn14 net-_n14-pad1_ net-_d1-pad1_ gnd gnd CMOSN W=0.22u L=0.18u M=1
mn11 net-_n10-pad2_ net-_n10-pad3_ net-_n10-pad1_ gnd CMOSN W=2.0u L=0.18u M=1
mp4 net-_n13-pad1_ net-_db1-pad1_ net-_p4-pad3_ net-_p4-pad3_ CMOSP W=0.44u L=0.18u M=1
vdb1 net-_db1-pad1_ gnd  dc 0
vdd5 net-_p4-pad3_ gnd  dc 1.2
mp9 net-_p10-pad3_ net-_n17-pad1_ net-_p10-pad4_ net-_p10-pad4_ CMOSP W=0.44u L=0.18u M=1
vdd7 net-_p10-pad4_ gnd  dc 1.2
mp10 net-_c2-pad2_ net-_n14-pad1_ net-_p10-pad3_ net-_p10-pad4_ CMOSP W=0.6u L=0.18u M=1
.tran 0.1n 45n uic

.tran 0.1e-09 45e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(net-_c1-pad1_)
plot v(net-_c2-pad2_)
.endc
.end
